US05475042
6-Chloro-2,4,8,10-tetra-tert-butyl-12-methyl-dibenzo[d,g][1,3,2]dioxaphosphocin
To a solution of 50.9 g. (0.12 mol) of 2,2'-ethylidenebis(4,6-di-tert-butylphenol) and 1.73 mL (0.018 mol) of 1-methyl-2-pyrrolidinone in 275 mL of toluene at ambient temperature is added dropwise 15.7 mL (0.18 mol) of phosphorus trichloride. After the addition is complete, the reaction mixture is heated at reflux for 18 hours. After cooling to room temperature, the toluene is removed in vacuo and the residue is then recrystallized twice from 250 mL of acetonitrile. The acetonitrile is decanted from the product which is dried under vacuum to give 21.0 g (34.8% yield) of the title compound as an off-white solid melting at 194°-198° C.

reactant | 2,2'-ethylidenebis(4,6-di-tert-butylphenol) | 0.12 mol | C(C)(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C30H46O2
reactant | 1-methyl-2-pyrrolidinone | 0.018 mol, 1.73 mL | CN1C(CCC1)=O | C5H9NO
reactant | phosphorus trichloride | 0.18 mol, 15.7 mL | P(Cl)(Cl)Cl | Cl3P
solvent | toluene | 275 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-2,4,8,10-tetra-tert-butyl-12-methyl-dibenzo[d,g][1,3,2]dioxaphosphocin | 21.0 g, 34.8% yield | ClP1OC2=C(C(C3=C(O1)C(=CC(=C3)C(C)(C)C)C(C)(C)C)C)C=C(C=C2C(C)(C)C)C(C)(C)C | C30H44ClO2P
